US07253184B2
4-(fluoro)nitrobenzene was reacted with 2-(2-hydroxyphenoxy)acetic acid in the presence of potassium t-butoxide/DMA at 150° C. for 2 hrs to give 2-[(2-(4-nitrophenoxy)phenoxy]acetic acid. The product was purified by chromatography.

reactant | 4-(fluoro)nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-(2-hydroxyphenoxy)acetic acid | OC1=C(OCC(=O)O)C=CC=C1 | C8H8O4
reactant | potassium t-butoxide DMA | CC(C)([O-])C.[K+].CC(=O)N(C)C
product | (2-(4-nitrophenoxy)phenoxy]acetic acid | [N+](=O)([O-])C1=CC=C(OC2=C(OCC(=O)O)C=CC=C2)C=C1 | C14H11NO6
